US09193707B2
1. Synthesis of 4-nitro-N-phenylbenzamide
Into a 1-L 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-nitrobenzoic acid (167 g, 999.29 mmol, 1.00 equiv) in dichloromethane (400 mL) and ClCOCOCl (317.5 g, 2.50 equiv). This was followed by the addition of N,N-dimethylformamide (1 mL) dropwise with stirring. The resulting solution was stirred for 4 h at room temperature. The mixture was concentrated under vacuum. To the residue was added a solution of PhNH2 (93 g, 1.00 equiv) in dichloromethane (400 mL), triethylamine (415 mL, 3.00 equiv) dropwise with stirring at 0° C. The resulting solution was stirred overnight at room temperature. The resulting mixture was washed with 2×500 mL of HCl (10%) and 1×500 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was diluted with 500 mL of petroleum ether/ethyl acetate=5:1. The solids were collected by filtration. This resulted in 205 g (85%) of 4-nitro-N-phenylbenzamide as light yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 7.12-7.17 (m, 1H), 7.32-7.41 (m, 2H), 7.78-7.81 (m, 2H), 8.16-8.21 (m, 2H), 8.36-8.42 (m, 2H), 10.58 (s, 1H); MS (ESI) m/z 243 ([M+H]+).

reactant | 4-nitrobenzoic acid | 999.29 mmol, 167 g, 1.00 equiv | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | ClCOCOCl | 317.5 g, 2.50 equiv | ClC(=O)C(=O)Cl | C2Cl2O2
reactant | PhNH2 | 93 g, 1.00 equiv | C1(=CC=CC=C1)N | C6H7N
reactant | triethylamine | 415 mL, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-nitro-N-phenylbenzamide | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H10N2O3
